US05965578
Step C: Preparation of Ethyl 3-oxo-4-(3-methylbenzyl)piperidine-4-carboxylate hydrochloride salt
To a cold (0° C.) solution of ethyl N-tert-butoxycarbonyl-3-oxo-4-(3-methylbenzyl)piperidine-4-carboxylate (1.55 g, 4.13 mmol) in ethyl acetate (75 mL), a stream of anhydrous hydrogen chloride gas was bubbled for 20 min. The resultant mixture was stirred at 0° C. for 1 h, purged with argon for 10 min., and concentrated under vacuum to provide the title compound as white solid.

reactant | ethyl N-tert-butoxycarbonyl-3-oxo-4-(3-methylbenzyl)piperidine-4-carboxylate | 4.13 mmol, 1.55 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)(C(=O)OCC)CC1=CC(=CC=C1)C)=O | C21H29NO5
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-oxo-4-(3-methylbenzyl)piperidine-4-carboxylate hydrochloride salt | Cl.O=C1CNCCC1(C(=O)OCC)CC1=CC(=CC=C1)C | InChI=1S/C16H21NO3.ClH/c1-3-20-15(19)16(7-8-17-11-14(16)18)10-13-6-4-5-12(2)9-13;/h4-6,9,17H,3,7-8,10-11H2,1-2H3;1H
